US08211820B2
Preparation of 3,4-difluoro-4′-methoxybiphenyl
Using a THF solution of p-methoxyphenylmagnesium bromide (2.34 mL, 0.64 M, 1.5 mmol), 4-chloro-1,2-difluorobenzene (148.6 mg, 1.0 mmol), FeF3.3H2O (8.34 mg, 0.05 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride (64.1 mg, 0.15 mmol) as starting materials, the reaction was performed at a scale of 1.0 mmol at 60° C. for 24 hours, and then at 80° C. for 12 hours, in the same manner as in Example 2. After performing silica gel column chromatography (toluene=15, 30 and 50% in hexane), the above compound was obtained as a white solid (0.215 g, yield=92%, purity=>99% (GC analysis)).

reactant | THF | C1CCOC1 | C4H8O
reactant | p-methoxyphenylmagnesium bromide | 1.5 mmol, 0.64 M, 2.34 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | 4-chloro-1,2-difluorobenzene | 1.0 mmol, 148.6 mg | ClC1=CC(=C(C=C1)F)F | C6H3ClF2
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride | 0.15 mmol, 64.1 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
solvent | hexane | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4-difluoro-4′-methoxybiphenyl | yield=92% | FC=1C=C(C=CC1F)C1=CC=C(C=C1)OC | C13H10F2O
